US04066654
To a solution of 60.3 parts of 4-chlorophenylacetonitrile and 118 parts of N,N-bis(2-chloroethyl)-4-toluenesulfonamide in 720 parts of dried benzene under N2 there is added portionwise with stirring at 10°-13° C 32.6 parts of sodamide. The cooling bath is then removed and the mixture is stirred for 1 hour during which time the temperature rises to 70° C and then falls back to 43° C. Ice cold water is added to the mixture and a fine solid forms. This is separated by filtration and washed successively with water and benzene and dried and then triturated in boiling methanol. The undissolved solid is separated by filtration, washed with water and dried to give 1-(4-toluenesulfonyl)-4-(4-chlorophenyl)-4-piperidinecarbonitrile melting at about 202°-206° C.

reactant | 4-chlorophenylacetonitrile | ClC1=CC=C(C=C1)CC#N | C8H6ClN
reactant | N,N-bis(2-chloroethyl)-4-toluenesulfonamide | ClCCN(S(=O)(=O)C1=CC=C(C=C1)C)CCCl | C11H15Cl2NO2S
reactant | sodamide | [NH2-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(4-toluenesulfonyl)-4-(4-chlorophenyl)-4-piperidinecarbonitrile | C1(=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)(C#N)C1=CC=C(C=C1)Cl)C | C19H19ClN2O2S
